US07081470B2
ETHYL 5-[((3Z)-2-OXO-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-2,3-DIHYDRO-1H-INDOL-1-YL)METHYL]-2-FUROATE
A mixture of ethyl 5-[(2,3-dioxo-2,3-dihydro-1H-indol-1-yl)methyl]-2-furoate (60 mg, 0.200 mmol) and 3-trifluromethylaniline (32 mg, 0.200 mmol) was heated at 140° C. for 2 h. The residue was dissolved in CHCl3 (1 mL) and purified by preparative TLC using EtOAc/hexane 6:4), giving the desired product (20 mg, 23%)

reactant | ethyl 5-[(2,3-dioxo-2,3-dihydro-1H-indol-1-yl)methyl]-2-furoate | 0.200 mmol, 60 mg | O=C1N(C2=CC=CC=C2C1=O)CC1=CC=C(O1)C(=O)OCC | C16H13NO5
reactant | 3-trifluromethylaniline | 0.200 mmol, 32 mg | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | CHCl3 | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | ETHYL 5-[((3Z)-2-OXO-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-2,3-DIHYDRO-1H-INDOL-1-YL)METHYL]-2-FUROATE | 20 mg, 23% | O=C\1N(C2=CC=CC=C2/C1=N/C1=CC(=CC=C1)C(F)(F)F)CC1=CC=C(O1)C(=O)OCC | C23H17F3N2O4
